US08030489B2
To a mixture of 1-(3-tert-butoxy-3-oxopropyl)cyclopentanecarboxylic acid (0.95 g) and toluene (10 ml) were added triethylamine (0.48 g), and diphenylphosphoryl azide (1.2 g) under ice-cooling, followed by stirring at room temperature for 1 hour. The reaction mixture was stirred at 100° C. for 0.5 hour, and then stirred under ice-cooling to give a mixture A. Apart from this, a mixture of DMF (2.0 ml) and benzyl alcohol (0.45 ml) was stirred at room temperature, and sodium hydride (0.18 g) was added thereto, followed by stirring for 0.5 hour to give a mixture B. Next, to the mixture A was added the mixture B under ice-cooling, followed by stirring at room temperature for 1 hour. To the reaction mixture were added ethyl acetate and water, and the aqueous layer was separated and extracted with ethyl acetate. The organic layer was combined, washed with a 10% aqueous citric acid solution, a saturated sodium bicarbonate solution, water, and saturated brine in this order, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to obtain tert-butyl 3-(1-{[(benzyloxy)carbonyl]amino}cyclopentyl)propanoate (0.59 g).

reactant | 1-(3-tert-butoxy-3-oxopropyl)cyclopentanecarboxylic acid | 0.95 g | C(C)(C)(C)OC(CCC1(CCCC1)C(=O)O)=O | C13H22O4
reactant | diphenylphosphoryl azide | 1.2 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 0.45 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 0.18 g | [H-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.48 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 3-(1-{[(benzyloxy)carbonyl]amino}cyclopentyl)propanoate | 0.59 g | C(C1=CC=CC=C1)OC(=O)NC1(CCCC1)CCC(=O)OC(C)(C)C | C20H29NO4
